US04888283
4.92 g of phthalide are transformed according to C. Y. Belke, S. C. K. Su, J. A. Shafer (J. Am. Chem. Soc., 93, 4552 (1971)), into 2-hydroxymethylbenzamide (melting point 147°-149° C.) which by treatment with lithium-aluminium hydride according to R. M. Laird, R. E. Parker (J. Chem. Soc., 4784 (1965)), and then with gaseous hydrogen chloride dissolved in ethyl ether, gives 2-hydroxymethylbenzylamine hydrochloride which after crystallization from an ethanol/ethyl ether mixture shows melting point of 177°-179° C. (G. Pifferi, L. Fontanella, E. Decelli, R. Monguzzi, J. Heterocyclic Chem., 9, 1209 (1972), melting point 177°-178° C.). I.R. (KBr) 3260 cm-1 (OH), 2595 cm-1 (NH3+), 1020 cm-1 (C--O), 760 cm-1 (phenyl).

reactant | phthalide | 4.92 g | C1(=O)OCC2=CC=CC=C12 | C8H6O2
reactant | 2-hydroxymethylbenzamide | OCC1=C(C(=O)N)C=CC=C1 | C8H9NO2
reactant | lithium-aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-hydroxymethylbenzylamine hydrochloride | Cl.OCC1=C(CN)C=CC=C1 | InChI=1S/C8H11NO.ClH/c9-5-7-3-1-2-4-8(7)6-10;/h1-4,10H,5-6,9H2;1H
